US09376418B2
Sodium hydroxide (5 M, 33.3 μL, 0.167 mmol) was added to a mixture of 4,4,4-trifluoro-2-methyl-2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]amino}butanenitrile (40.0 mg, 0.083 mmol) in DMSO (167 μL) and the reaction mixture was stirred at room temperature. Upon the reaction completion (monitored by LCMS) was diluted with DMF and filtered. The residue was directly purified by reverse phase chromatography and then by silica gel chromatography (0-100% ethyl acetate in hexanes) to yield 4,4,4-trifluoro-N-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]isovaline. MS APCI calc'd for C22H20F6N5O2 [M+H]+ 500. found 500. 1H NMR (500 MHz, CDCl3) δ 8.60 (d, J=5.7 Hz, 1H), 8.07 (s, 1H), 7.95 (d, J=11.2 Hz, 1H), 7.54 (s, 1H), 7.43 (s, 1H), 7.10 (d, J=5.4 Hz, 1H), 6.90 (s, 1H), 6.72 (d, J=9.8 Hz, 1H), 3.04 (s, 1H), 2.59-2.24 (m, 4H), 1.98-1.81 (m, 3H).

reactant | Sodium hydroxide | 0.167 mmol, 5 M, 33.3 μL | [OH-].[Na+]
reactant | 4,4,4-trifluoro-2-methyl-2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]amino}butanenitrile | 0.083 mmol, 40.0 mg | FC(CC(C#N)(NC1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C)(F)F | C22H18F6N6
reactant | DMSO | 167 μL | CS(=O)C | C2H6OS
solvent | DMF | CN(C)C=O | C3H7NO
product | 4,4,4-trifluoro-N-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]isovaline | FC(C[C@](NC1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)(C)C(=O)O)(F)F | C22H19F6N5O2
